US04803206
Dissolve 3,5-diamino-6-chloropyrazine-2carboxylic acid (1 g) in warm DMF (15 ml). Cool to 25° C., add CDI (0.86 g) and stir under N2 for about 30 minutes (a precipitate form). Add ethylenediamine (0.9 g) and stir the resultant solution overnight. Filter the reaction solution and evaporate the solvent. Purify by flash chromatography on silica gel (100 g) eluting with CH2Cl2 :MeOH:NH4OH (70:30:1). Collect the desired fractions and evaporate the solvent to obtain N-(aminoethyl)-3,5-diamino-6-chloropyrazine-2-carboxamide.

reactant | 3,5-diamino-6-chloropyrazine-2carboxylic acid | 1 g | NC=1C(=NC(=C(N1)N)Cl)C(=O)O | C5H5ClN4O2
reactant | CDI | 0.86 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | ethylenediamine | 0.9 g | C(CN)N | C2H8N2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | N-(aminoethyl)-3,5-diamino-6-chloropyrazine-2-carboxamide | NCCNC(=O)C1=NC(=C(N=C1N)N)Cl | C7H11ClN6O
